US08217069B2
To 3-(5-{6-[2-(tert-butoxycarbonylamino)ethoxy]-2,3-difluorobenzyloxy}-2-chloro-phenyl)-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (40 mg) was added hydrochloric acid (4 mol/L ethyl acetate solution, 2 mL), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added diethyl ether, and the precipitated crystals were collected by filtration. The collected crystals were washed with diethyl ether, and dried under reduced pressure to give 3-{5-[6-(2-aminoethoxy)-2,3-difluorobenzyloxy]-2-chlorophenyl}-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one hydrochloride (12 mg). To this material were added methylene chloride (2 mL), tetrahydrofuran (1 mL), pyridine (0.1 mL) and acetic anhydride (0.003 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=10/1) to give the title compound (10 mg).

reactant | 3-(5-{6-[2-(tert-butoxycarbonylamino)ethoxy]-2,3-difluorobenzyloxy}-2-chloro-phenyl)-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 40 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C(=C1COC=1C=CC(=C(C1)N1C(NC=2C1=NC(=CC2)CO)=O)Cl)F)F | C27H27ClF2N4O6
reactant | hydrochloric acid | 4 mol/L, 2 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-{5-[6-(2-aminoethoxy)-2,3-difluorobenzyloxy]-2-chlorophenyl}-5-hydroxymethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 12 mg | Cl.NCCOC1=CC=C(C(=C1COC=1C=CC(=C(C1)N1C(NC=2C1=NC(=CC2)CO)=O)Cl)F)F | InChI=1S/C22H19ClF2N4O4.ClH/c23-15-3-2-13(33-11-14-19(32-8-7-26)6-4-16(24)20(14)25)9-18(15)29-21-17(28-22(29)31)5-1-12(10-30)27-21;/h1-6,9,30H,7-8,10-11,26H2,(H,28,31);1H
